### ISSUE TITLE
Deviating simp behaviour compared to Lean 3

### ISSUE THREAD

**Issue by javra** [leanprover/lean4#1762]
### Description

In Mathlib 3, in the following snippet, `simp` reduces the goal to `A _`:
```
import logic.basic

example (P : Prop) (h : P) (A : P → Prop) : ∃ (h : P), A h :=
begin
  simp only [h],
end
```
but in Lean 4 the corresponding snippet
```
example (P : Prop) (h : P) (A : P → Prop) : ∃ (h : P), A h := by
  simp only [h]
```
does not.

**Comment by Kha** [comment]
(It was because of a `congr` lemma for `Exists`)

**Comment by javra** [comment]
Made a new issue for the actual problem: https://github.com/leanprover/lean4/issues/1763
